US06462049B1
8.2 g (50 mmols) of ethyl phenylacetate and 10.7 g (50 mmols) of 3,5-dichloro-1-methylpyrazole-4-carboxylic acid chloride were dissolved in 100 ml of dry tetrahydrofuran, and 14 g (125 mmols) of potassium tert-butoxide at room temperature. The reaction mixture was stirred at room temperature for 1 hour, and 300 ml of water was added thereto, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 17 g of the intended ethyl 2-phenyl-3-(3,5-dichloro-1-methylpyrazol-4-yl)-3-hydroxyacrylate.

reactant | ethyl phenylacetate | 50 mmols, 8.2 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 3,5-dichloro-1-methylpyrazole-4-carboxylic acid chloride | 50 mmols, 10.7 g | ClC1=NN(C(=C1C(=O)Cl)Cl)C | C5H3Cl3N2O
reactant | potassium tert-butoxide | 125 mmols, 14 g | CC(C)([O-])C.[K+]
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 2-phenyl-3-(3,5-dichloro-1-methylpyrazol-4-yl)-3-hydroxyacrylate | 17 g | C1(=CC=CC=C1)C(C(=O)OCC)=C(O)C=1C(=NN(C1Cl)C)Cl | C15H14Cl2N2O3
